US08877968B2
15-1-3 Toluene-4-sulfonic acid 2-cyano-2-phenylheptyl ester
To a solution containing 4.24 g (19.5 mmol) of 2-hydroxymethyl-2-phenyl-heptanenitrile in 25 mL of dichloromethane are added 4.1 g (21.5 mmol) of p-toluenesulfonyl chloride and 6 mL of triethylamine. The reaction medium is stirred for 15 hours at room temperature and then treated with 1N hydrochloric acid solution and extracted with dichloromethane. The organic phase is dried over sodium sulfate, filtered and evaporated under pressure. A yellow oil is obtained and precipitated from a 9/1 heptane/diisopropyl ether mixture. The precipitate formed is filtered off and rinsed with diisopropyl ether. 5.26 g in the form of a beige-coloured powder are obtained in a yield of 72%.

reactant | 2-hydroxymethyl-2-phenyl-heptanenitrile | 19.5 mmol, 4.24 g | OCC(C#N)(CCCCC)C1=CC=CC=C1 | C14H19NO
reactant | p-toluenesulfonyl chloride | 21.5 mmol, 4.1 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 6 mL | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | Toluene-4-sulfonic acid 2-cyano-2-phenylheptyl ester | yield of 72% | C(#N)C(COS(=O)(=O)C1=CC=C(C=C1)C)(CCCCC)C1=CC=CC=C1 | C21H25NO3S
